US04065619
1. Preparation of α-sulfo-α-(p-nitrophenyl)acetic acid chloride
6.58 Grams (5.7 × 10-2M) of thionyl chloride, 2 ml. of ether and 2 drops of dimethylformamide were added to 1.5 g. (5.7 × 10-3M) of α-sulfo-α-(p-nitrophenyl)acetic acid to allow to react for 14.5 hours at room temperature. The reaction product was subjected to the evaporation to dryness under reduced pressure to obtain a crude desired product. Yield 81.3%.

reactant | thionyl chloride | 5.7 × 10-2M | S(=O)(Cl)Cl | Cl2OS
reactant | α-sulfo-α-(p-nitrophenyl)acetic acid | 5.7 × 10-3M | S(=O)(=O)(O)C(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO7S
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | α-sulfo-α-(p-nitrophenyl)acetic acid chloride | Yield 81.3% | S(=O)(=O)(O)C(C(=O)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO6S
